US08222248B2
A mixture of 2-[4-(2-methoxycarbonylethyl)-2,6-dimethylphenyl]-1H-indole-6-carboxylic acid (100 mg, 280 μmol), 4-tert-butylaniline (45 μL, 290 μmol), EDCI (82 mg, 430 μmol) and HOBT (42 mg, 310 μmol) in THF (10 mL) was heated in a microwave apparatus at 150° C. for 3 h. The solvent was removed under reduced pressure and the residue was chromatographed using a 10-60% gradient of heptane/ethyl acetate to give 3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-indol-2-yl]-3,5-dimethylphenyl}-propionic acid methyl ester. MS (m/z) 484.3 (M+1); Retention time=1.50 min (Method 10).

reactant | 2-[4-(2-methoxycarbonylethyl)-2,6-dimethylphenyl]-1H-indole-6-carboxylic acid | 280 μmol, 100 mg | COC(=O)CCC1=CC(=C(C(=C1)C)C=1NC2=CC(=CC=C2C1)C(=O)O)C | C21H21NO4
reactant | 4-tert-butylaniline | 290 μmol, 45 μL | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | EDCI | 430 μmol, 82 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 310 μmol, 42 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-indol-2-yl]-3,5-dimethylphenyl}-propionic acid methyl ester | COC(CCC1=CC(=C(C(=C1)C)C=1NC2=CC(=CC=C2C1)C(NC1=CC=C(C=C1)C(C)(C)C)=O)C)=O | C31H34N2O3
